US06610518B2
Preparation of N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy-}1-methyl-1H-pyrazol-5-yl)-5-isopropyl-2-pyridinesulfonamide
In an oven-dried flask a solution of tetrahydrofuran (50 ml) and dimethylacetamide (3 ml) was treated with sodium hydride as a 60% dispersion in oil (460 mg) under an atmosphere of nitrogen. The reaction was stirred for 5 min and then treated with N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide (1.0 g) (Preparation 13). The reaction was stirred for 3 h and was then treated with 5-chloro-2(methylsulfonyl)pyrimidine (460 mg). After stirring for a further 3 h the reaction mixture was concentrated and the residue was partitioned between water (100 ml) and ethyl acetate (100 ml). The aqueous was extracted with ethyl acetate (3×75 ml) and the combined organics were dried over sodium sulfate. The solvent was removed and the crude residue was purified on a silica (40 g) column eluting with 20% ether in dichloromethane rising to 45% ether in dichloromethane to yield the title compound as an off-white foam (560 mg).

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide | 1.0 g | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C)OCCO | C21H24N4O6S
reactant | 5-chloro-2(methylsulfonyl)pyrimidine | 460 mg | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy-}1-methyl-1H-pyrazol-5-yl)-5-isopropyl-2-pyridinesulfonamide | 560 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C)OCCOC2=NC=C(C=N2)Cl | C25H25ClN6O6S
